### PR TITLE
Add `_in` variants of the sorting lemmas

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR adds `_in` variants of the sorting lemmas that restrict the domain where totality, transitivity, etc. hold by a predicate.
- [done] ~This generalization has not been done for the stability lemmas yet.~
- [postponed] ~This PR also attempts to add the `sort_map_in` lemma taken from PRs #328 and #358, but this is not general enough yet.~

CC: @CohenCyril

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] merge dependency: #632
- [x] merge dependency: #646
- [x] merge dependency: #650
- [ ]  backport to Coq (including ones from #521)
- ~[ ] added corresponding documentation in the headers~

##### PR overlays

- coq-community/lemma-overloading#63
- imdea-software/fcsl-pcm#24

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -407,6 +407,8 @@ End EqPath.
 
 Section EqHomoPath.
 
+(* TODO: Generalize these lemmas for non-eqType T by introducing a predicate  *)
+(* P : {pred T}.                                                              *)
 Variables (T : eqType) (T' : Type) (f : T -> T') (leT : rel T) (leT' : rel T').
 
 Lemma sub_path_in (e e' : rel T) x s : {in x :: s &, subrel e e'} ->
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:414]: I think that the following generalization of `sub_path_in` is useful:
```coq
Lemma sub_path_in (T T' : Type) (P : {pred T}) (e e' : rel T) x s :
  P x -> all P x -> {in P &, subrel e e'} -> path e x s -> path e' x s.
```
Does it make sense? What should be the naming convention for these two variants of the lemma? (I have the same issue in, e.g., `sort_sorted_in`.)

**Comment by pi8027** [comment]
There are naming inconsistencies in `eq_(path|sorted)(_in)` lemmas. :(
```coq
eq_path
     : forall (T : Type) (e e' : T -> T -> bool), e =2 e' -> path e =2 path e'

eq_path_in
     : forall (T : eqType) (e e' : rel T) (x : T) (s : seq T),
       {in x :: s &, e =2 e'} -> path e x s = path e' x s

eq_sorted
     : forall (T : eqType) (leT : rel T),
       transitive leT ->
       antisymmetric leT ->
       forall s1 s2 : seq T,
       sorted leT s1 -> sorted leT s2 -> perm_eq s1 s2 -> s1 = s2

eq_sorted_in
     : forall (T : eqType) (leT : rel T) (s1 : seq_predType T) (s2 : seq T),
       {in s1 & &, transitive leT} ->
       {in s1 &, antisymmetric leT} ->
       sorted leT s1 -> sorted leT s2 -> perm_eq s1 s2 -> s1 = s2
```

**Comment by pi8027** [comment]
Also `path`, `cycle`, and `sorted` share some similar properties but many of them are actually missing as lemmas, e.g., the `cycle` variant of `eq_path_in` and `(homo|mono)_path(_in)`, and the `sorted` variants of `eq_path(_in)`. I guess it would be nice to move `sorted` after the definition of `cycle` to get a better view.

File: mathcomp/ssreflect/path.v [hunk 2]
```diff
@@ -407,7 +475,9 @@ End EqPath.
 
 Section EqHomoPath.
 
-Variables (T : eqType) (T' : Type) (f : T -> T') (leT : rel T) (leT' : rel T').
+(* TODO: Generalize these lemmas for non-eqType T by introducing a predicate  *)
+(* P : {pred T}.                                                              *)
+Variables (T : eqType) (T' : Type) (f : T -> T').
 
 Lemma sub_path_in (e e' : rel T) x s : {in x :: s &, subrel e e'} ->
    path e x s -> path e' x s.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:483]: Since my previous comment has become outdated, I repeat it. I think that the following generalization of `sub_path_in` is useful:
```coq
Lemma sub_path_in (T T' : Type) (P : {pred T}) (e e' : rel T) x s :
  P x -> all P x -> {in P &, subrel e e'} -> path e x s -> path e' x s.
```
This generalization may apply to all the lemmas in this section. Does it make sense? What should be the naming convention for these two variants of the lemma? (I have the same issue in the new lemmas, e.g., `sort_sorted_in`.)

**Comment by pi8027** [comment]
I don't think I can make more progress without some feedback. May I have some comment on the above points (naming inconsistencies, a possible generalization of `sub_path_in`, and its naming convention)?

File: mathcomp/ssreflect/path.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:483]: Yes!

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:483]: > There are naming inconsistencies in `eq_(path|sorted)(_in)` lemmas. :(

I'm not sure what the inconsistency is... `path` being a predicate `eq_path` is its congruence lemma, on the other hand, `sorted` being a unary predicate `eq_sorted` characterizes the equality of sorted sequences.

**Comment by CohenCyril** [comment]
> There are naming inconsistencies in `eq_(path|sorted)(_in)` lemmas. :(

Nevermind, yes there is an inconsistency...

**Comment by pi8027** [comment]
> Nevermind, yes there is an inconsistency... I guess `eq_sorted` should be renamed `sorted_eq` then...

Sure. So we will be able to add `eq_sorted(_in)` consistent with `eq_path(_in)` in 1.13.

File: mathcomp/ssreflect/path.v [hunk 3]
```diff
@@ -771,22 +998,25 @@ case: s => [|x s] //; have [s1 pp qq] := perm_iota_sort leT x (x :: s).
...
-End EqHomoSortSeq.
-
-Arguments homo_sorted_in {T T' f leT leT'}.
-Arguments mono_sorted_in {T T' f leT leT'}.
+(* TODO: Generalize the following lemma for non-eqType T'. *)
+Lemma sort_map_in (T T' : eqType) f (leT : rel T) (leT' : rel T') (s : seq T) :
+  {in s &, antisymmetric (relpre f leT')} ->
+  {in s & &, transitive (relpre f leT')} -> {in s &, total leT} ->
+  {in s &, {homo f : x y / leT x y >-> leT' x y}} ->
+  sort leT' [seq f x | x <- s] = [seq f x | x <- sort leT s].
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:1006]: Also, I had a hard time to generalize this lemma. The point is that the current proof uses `perm_eq` of `seq T'`, so `T'` is required to be an `eqType` but it shouldn't. `T` can also be generalized to a `Type` by introducing a predicate `P : {pred T}`.

File: mathcomp/ssreflect/path.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:483]: I think I'd state it as 
```coq
Lemma sub_path_in (T T' : Type) (P : {pred T}) (e e' : rel T) x s :
  all P (x :: s) -> {in P &, subrel e e'} -> path e x s -> path e' x s.
```
so that we can apply it to
```coq
Lemma all_seq {T : eqType} {s : seq T} : all (mem s) s. Proof. exact/allP. Qed.
```
and get back the previous behaviour...

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:483]: On second thought, I'm wondering whether the more general versions should be in a separate module, because applying `all_seq` by hand all the time seems a little bit... costly :confused:

Comment (pi8027) [reply mathcomp/ssreflect/path.v:483]: It seems that both `all (mem s) s` and `all (pred_of_seq s) s` appear in goals, and then the above `all_seq` can be problematic. :(
```coq
Require Import all_ssreflect.

Lemma allss (T : eqType) (s : seq T) : all (mem s) s. Proof. exact/allP. Qed.

Goal forall (T : eqType) (x : T) s, all (pred_of_seq (x :: s)) (x :: s).
Proof.
move=> T x s.
Fail apply: allss. (* ! *)
exact: (allss _ (x :: s)).
Qed.
```
I think that the above `Fail apply:` unfolds `pred_of_seq (x :: s)` first and then fails to unify it with `mem _`.

Comment (pi8027) [reply mathcomp/ssreflect/path.v]: I found a solution to make `allss` work both for `all (mem s) s` and `all (pred_of_seq s) s` and declared it as a hint. See `seq.v`.

**Comment by pi8027** [comment]
Deprecating `eq_sorted_irr` breaks fcsl-pcm and lemma-overloading, because the deprecation facility does not support the `(ident := term)` syntax for explicit applications. https://github.com/imdea-software/fcsl-pcm/blob/1d5b78248fb1d5bec3553d64f92656e973f2b6de/pcm/unionmap.v#L3573 https://github.com/coq-community/lemma-overloading/blob/05a9f467049822eb14b3784ddaa21ddc0252c92a/theories/heaps.v#L1199

File: mathcomp/ssreflect/path.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v:1002]: Except for this point, this PR seems to be almost good enough to merge. So I would remove this lemma for now and try to add it later in another PR if there is no immediate solution.

**Comment by pi8027** [comment]
I will write CHANGELOG entries later today. This PR is ready for review except for that.

**Comment by pi8027** [comment]
> I will write CHANGELOG entries later today. This PR is ready for review except for that.

Done.

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -1428,6 +1430,9 @@ Arguments count_memPn {T x s}.
 Arguments uniqPn {T} x0 {s}.
 Arguments uniqP {T} x0 {s}.
 
+Hint Extern 0 (is_true (all _ _)) =>
+  exact: (allss : forall T s, all (mem_seq s) s) : core.
```
Comment (chdoc) [inline mathcomp/ssreflect/seq.v:1434]: Is it really necessary to add a global external hint for this?

**Review by chdoc — COMMENTED** [review]
I gave it first pass, and this looks largely reasonable to me. However, I haven't taken the time yet to look at the individual proofs. Moreover, it looks to me that this PR changes (much) more than just generalize the sorting lemmas. I would advocate for splitting this PR into more focused (and hence smaller) PRs, so that each part can be given proper consideration.

**Comment by pi8027** [comment]
> Moreover, it looks to me that this PR changes (much) more than just generalize the sorting lemmas. I would advocate for splitting this PR into more focused (and hence smaller) PRs, so that each part can be given proper consideration.

@chdoc Sure. I separated off the first part of this PR as #632.

File: mathcomp/ssreflect/order.v [hunk 5]
```diff
@@ -2750,12 +2750,15 @@ rewrite andbF; apply/and5P=> [[ne_nm lenm _ _ le_ms]]; case/negP: ne_nm.
...
-Lemma eq_sorted_lt s1 s2 : sorted lt s1 -> sorted lt s2 -> s1 =i s2 -> s1 = s2.
-Proof. by apply: eq_sorted_irr => //; apply: lt_trans. Qed.
+Lemma sorted_eq_lt s1 s2 : sorted <%O s1 -> sorted <%O s2 -> s1 =i s2 -> s1 = s2.
+Proof. by apply: sorted_eq_irr => //; apply: lt_trans. Qed.
 
-Lemma eq_sorted_le s1 s2 : sorted le s1 -> sorted le s2 ->
-  perm_eq s1 s2 -> s1 = s2.
-Proof. by apply: eq_sorted; [apply: le_trans|apply: le_anti]. Qed.
+Lemma sorted_eq_le s1 s2 :
+  sorted <=%O s1 -> sorted <=%O s2 -> perm_eq s1 s2 -> s1 = s2.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/order.v:2757]: I replaced `eq_sorted` with `sorted_eq` blindly but `sorted_(le|lt)_eq` seems to make much sense here because they state properties of lists sorted by `<=%O` and `<%O`. So should we rename `sorted_eq_irr(_in)` to `sorted_irr_eq(_in)`? What do you think, @CohenCyril?

[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:2757]: These names do not make sense to me, `sorted` and `lt`/`le` must be next to each other.
I liked `eq_sorted_(le|lt)`, but I would be fine with `sorted_(le|lt)_eq` too.

[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:2757]: (and same rationale with `sorted_eq_irr`)

File: mathcomp/ssreflect/seq.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:1434]: I guess it follows from a problem from @pi8027 encountered and that I cannot find on github :disappointed: 
However, it is forbidden to use `exact:` in a `Hint Extern`, since `exact` might call `ssrdone` which calls makes use of level 0 hints, potentially causing a loop in some weird cases. You may use `solve [apply: stuff]` instead.
(BTW I notice `exact:` is used in `ssrnum.v` which I accidentally let through...)

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:1434]: It should probably be documented as a comment in the code though...

Comment (pi8027) [reply mathcomp/ssreflect/seq.v:1434]: > I guess it follows from a problem from @pi8027 encountered and that I cannot find on github 

The problem I observed in the discussion following from https://github.com/math-comp/math-comp/pull/601#discussion_r501516139 was that both `all (mem s) s` and `all (pred_of_seq s) s` appear in goals and do not reduce to each other. So stating `allss` in the form of one of them makes `apply: allss` failing for the other case. Since both `mem` and `pred_of_seq` reduce to `mem_seq`, I had to put this explicit type annotation here. Since the `Hint` facility lets us use syntactic matching to find the rules to apply, I had also to use `Hint Extern` to give that pattern explicitly (see #319).

> However, it is forbidden to use `exact:` in a `Hint Extern`, since `exact` might call `ssrdone` which calls use of level 0 hints, potentially causing a loop in some weird cases. You may use `solve [apply: stuff]` instead.
> (BTW I notice `exact:` is used in `ssrnum.v` which I accidentally let through...)

Sure. I will fix them.

File: mathcomp/ssreflect/order.v (hunk 5 above)
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Fixed.

File: mathcomp/ssreflect/path.v [hunk 6]
```diff
@@ -649,85 +661,150 @@ rewrite /sort; move: [::] {2}_.+1 (ltnSn (size s)./2) => ss n.
...
-elim=> //= x2 s2 IHs2 x /andP[le_x_x1 ord_s1] /andP[le_x_x2 ord_s2].
-case: ifP => le_x21 /=; first by rewrite le_x_x1 {}IHs1 //= le_x21.
-by rewrite le_x_x2 IHs2 //=; have:= leT_total x1 x2; rewrite le_x21 /= => ->.
+rewrite sortE -[s in RHS]/(flatten [::] ++ s).
+elim: s [::] => [|x s ih] ss /=.
+  by elim: ss [::] => //= s ss ih s'; rewrite ih !all_cat all_merge; bool_congr.
+rewrite {}ih -cat_rcons !all_cat -cats1; congr andb.
+elim: ss [:: x] => {x s} [|[|x s] ss ih] s' //=;
+  rewrite ?ih !all_cat ?all_merge /= -?andbA; bool_congr.
 Qed.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:672]: This is another instance where it would be really useful to be able to use the fact that `sort s` and `s` have the same elements, even if one does not have a decidable equality (#638). This isn't a blocker, I'm merely collecting examples for the aforementioned issue.

**Comment by chdoc** [comment]
@pi8027 , is this PR ready for review now?

**Comment by pi8027** [comment]
> @pi8027 , is this PR ready for review now?

@chdoc Yes.

File: mathcomp/ssreflect/path.v (hunk 6 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v:672]: As in https://github.com/math-comp/math-comp/pull/632#discussion_r520492284, `mkseq_nth` is useful to avoid induction here.
```coq
Lemma all_sort (T : Type) (P : {pred T}) (leT : rel T) s :
  all P (sort leT s) = all P s.
Proof.
case: s => // x s; move: (x :: s) => {s} s.
rewrite -(mkseq_nth x s) sort_map !all_map.
by apply: perm_all; rewrite perm_sort.
Qed.
```

**Comment by pi8027** [comment]
Now I think `perm_iota_sort` is not convenient enough to perform the `mkseq` technique for `sort`. I actually rather use `mkseq_nth` often. Let me investigate before review.

File: mathcomp/ssreflect/path.v (hunk 6 above)
Comment (chdoc) [reply mathcomp/ssreflect/path.v:672]: 3 (short) lines rather than 6, that's much better. Also, the use of `mkseq_nth` makes it easier to find this should there ever be list membership without decidable equality in mathcomp. Great!

**Comment by CohenCyril** [comment]
There are two ways to add the `_in` variants,
- one way is exactly what you did: prove the `_in` versions first, and then apply them to the not `_in` counterparts.
- the other one is to keep the original code as such and extend it to the `_in` variants, by applying the original lemmas to `sig P` and using parametricity results (such as `path_map`, `sorted_map`, `sort_map`, etc)
I wonder if the second approach wouldn't be more compact, maybe at the cost of some reusable machinery... (like `inW` etc), @pi8027 did you try it?

**Comment by pi8027** [comment]
@CohenCyril I thought about the second possibility but did not try it yet. Let me try. Also, I intend to separate off the renaming of `eq_sorted` lemmas as another PR to make it easy to compare these two approaches.

**Comment by pi8027** [comment]
CI fails since coq.inria.fr is down🤦‍♂️

**Comment by pi8027** [comment]
Progress report: before working on another approach to add the `_in` lemmas suggested by @CohenCyril, I'm discovering some possible simplifications and generalizations of existing proofs (namely the first commit of this PR). I will probably open it as another PR.

File: mathcomp/ssreflect/path.v [hunk 7]
```diff
@@ -375,6 +424,42 @@ Arguments mono_path {T T' f e e' x s}.
...
+
+Lemma ltn_index s : sorted leT s ->
+  {in s &, forall x y, index x s < index y s -> leT x y}.
+Proof. by apply: ltn_index_in; apply: in3W. Qed.
+
+Hypothesis leT_refl : reflexive leT.
+
+Lemma leq_index s : sorted leT s ->
+  {in s &, forall x y, index x s <= index y s -> leT x y}.
+Proof. by apply: leq_index_in; [apply: in3W | apply: in1W]. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:459]: The names of these lemmas `(ltn|leq)_index` are too short in my opinion. Shouldn't we rename them to `sorted_(ltn|leq)_index`, so that these properties specialized to a `porderType` can be called `(le|lt)_sorted_(ltn|leq)_index`?

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:459]: Yes indeed, note that `lt_sorted_` versions, or more generally either "irreflexive versions" or "reflexive + uniq" versions should be stronger, i.e. we should get an equality i.e. a `mono`, (and also `mono` for `sorted_le_nth` under the same conditions). I was planning to add it one day, and I will do it in another PR (unless you desire to do it instead, if so please tell me), and from this perspective the renaming you suggest is a nice anticipation.

Comment (pi8027) [reply mathcomp/ssreflect/path.v:459]: Sure. I will rename them, but will not add the irreflexive versions of them by myself (at least for now). I'm also preparing a PR to address #622 at the same time, but I will not touch this part (including `sorted_(le|lt)_nth` lemmas).

Comment (pi8027) [reply mathcomp/ssreflect/path.v:459]: > ... from this perspective the renaming you suggest is a nice anticipation and maybe it should even go further renaming the current `sorted_lt_nth` to `sorted_ltn_nth` (so that `sorted_lt_nth` becomes available for the specialization of `sorted_irr_nth` to `<%O`).

`lt`/`le` of `sorted_(lt|le)_nth` is about indices, not about elements of `s`. So I think `irr` should come before `sorted` (e.g., `irr_sorted_lt_nth`), but it would still be nice to replace these `lt` and `le` with `ltn` and `leq` respectively.

Comment (pi8027) [reply mathcomp/ssreflect/path.v]: Addressed in #650.

**Comment by pi8027** [comment]
>  the other one is to keep the original code as such and extend it to the `_in` variants, by applying the original lemmas to `sig P` and using parametricity results (such as `path_map`, `sorted_map`, `sort_map`, etc)

This one seems quite successful (see https://github.com/pi8027/math-comp/commit/4c794d28703abe14c60fce540374a8ad7a5808af). Since these lemmas will not likely to be used frequently and their proofs are reasonably short, we probably don't have to add them in `path.v`. But, at least, I would like to document this proof technique somewhere. Would `sort_map(_in)` be a good example?

**Comment by CohenCyril** [comment]
> This one seems quite successful (see [pi8027@4c794d2](https://github.com/pi8027/math-comp/commit/4c794d28703abe14c60fce540374a8ad7a5808af)). Since these lemmas will not likely to be used frequently and their proofs are reasonably short, we probably don't have to add them in `path.v`. But, at least, I would like to document this proof technique somewhere. Would `sort_map(_in)` be a good example?

Actually, I think the best documentation would come from factoring out the proofs that transitivity, totality, reflexivity, irreflexivity, antisymmetry (and the ones I maybe forgot) "in" `P`, propagate to `sig P` and documenting the proof technique there and pointing to `sort_map(_in)` for an example of usage.

**Comment by CohenCyril** [comment]
cf https://github.com/CohenCyril/math-comp/tree/sorting_in-param

**Comment by CohenCyril** [comment]
My impression is that in previous versions of this, you had many more `_in` variants. I cannot find the previous changelog anymore to compare, but is that right?

**Comment by pi8027** [comment]
> My impression is that in previous versions of this, you had many more `_in` variants. I cannot find the previous changelog anymore to compare, but is that right?

Right. Here I have a previous version: https://github.com/pi8027/math-comp/commit/024cb1b6455fa40ea7cb902909a311033fb30108. I will put some of them back, but I'm not sure if we need all of them.

File: mathcomp/ssreflect/path.v [hunk 8]
```diff
@@ -475,9 +527,48 @@ Qed.
...
+Proof.
+move=> /in3_sig leT_tr /in1_sig leT_irr; case/all_sigP: (allss s) => s' ->.
+by rewrite sorted_map (map_inj_uniq val_inj); exact: sorted_uniq.
+Qed.
+
+Lemma sorted_eq_in s1 s2 :
+  {in s1 & &, transitive leT} -> {in s1 &, antisymmetric leT} ->
+  sorted leT s1 -> sorted leT s2 -> perm_eq s1 s2 -> s1 = s2.
+Proof.
+move=> /in3_sig leT_tr /in2_sig leT_asym + + /[dup] perm_s12.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:552]: The behavior of this intro pattern has been changed between Coq 8.11 and Coq 8.12.🙁

In Coq 8.11:
```
  perm_s12 : perm_eq s1 s2
  ============================
  sorted leT s1 -> sorted leT s2 -> perm_eq s1 s2 -> s1 = s2
```

In Coq 8.12:
```
  perm_s12 : perm_eq s1 s2
  ============================
  perm_eq s1 s2 -> sorted leT s1 -> sorted leT s2 -> s1 = s2
```

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: CC @gares

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: The behaviour in 8.12 is not the right one... This kind of calls for a backport...

File: mathcomp/ssreflect/path.v [hunk 9]
```diff
@@ -475,9 +527,48 @@ Qed.
...
+
+Lemma sorted_eq_in s1 s2 :
+  {in s1 & &, transitive leT} -> {in s1 &, antisymmetric leT} ->
+  sorted leT s1 -> sorted leT s2 -> perm_eq s1 s2 -> s1 = s2.
+Proof.
+move=> /in3_sig leT_tr /in2_sig leT_asym + + perm_s12; move: (perm_s12).
+case/all_sigP: (allss s1) => s1' ->; move: (allss s1).
+rewrite (perm_all _ perm_s12) => /all_sigP [s2' ->] /(perm_map_inj val_inj).
+rewrite !sorted_map => {}perm_s12 s1_sorted s2_sorted; congr map.
+by apply: sorted_eq s1_sorted s2_sorted perm_s12 => // ? ? /leT_asym /val_inj.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:556]:
```suggestion
move=> /in3_sig leT_tr /in2_sig/(_ _ _ _)/val_inj leT_anti ss1 ss2 s1s2.
move: ss1 ss2 (s1s2); have /all_sigP[s1' ->] := allss s1.
have /all_sigP[{s1s2}s2 ->] : all (mem s1) s2 by rewrite -(perm_all _ s1s2).
by rewrite !sorted_map => ss1' ss2 /(perm_map_inj val_inj)/(sorted_eq leT_tr)->.
```

File: mathcomp/ssreflect/path.v [hunk 10]
```diff
@@ -475,9 +527,48 @@ Qed.
...
+Qed.
+
+Lemma irr_sorted_eq_in s1 s2 :
+  {in s1 & &, transitive leT} -> {in s1, irreflexive leT} ->
+  sorted leT s1 -> sorted leT s2 -> s1 =i s2 -> s1 = s2.
+Proof.
+move=> /in3_sig leT_tr /in1_sig leT_irr + + eq_s12; move: (eq_s12).
+case/all_sigP: (allss s1) => s1' ->; move: (allss s1).
+rewrite (eq_all_r eq_s12) => /all_sigP [s2' ->].
+rewrite !sorted_map => {}eq_s12 s1_sorted s2_sorted; congr map.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:565]: Even if it is slightly longer, this documents the proof in a better way.
```suggestion
move=> /in3_sig leT_tr /in1_sig leT_irr + + s1s2; move: (s1s2).
have /all_sigP[s1' ->] := allss s1.
have /all_sigP[s2' ->] : all (mem s1) s2 by rewrite -(eq_all_r s1s2).
rewrite !sorted_map => {}s1s2 s1_sorted s2_sorted; congr map.
```

File: mathcomp/ssreflect/path.v [hunk 11]
```diff
@@ -233,6 +242,31 @@ Qed.
...
+move=> Pxs; apply/idP/idP => [xs|/andP[/path_min_sorted<-//]].
+by rewrite (order_path_min_in leT_tr) //; apply: path_sorted xs.
+Qed.
+
+Lemma sorted_ltn_nth_in x0 s : all P s -> sorted leT s ->
+  {in [pred n | n < size s] &, {homo nth x0 s : i j / i < j >-> leT i j}}.
+Proof.
+elim: s => // x s ihs Pxs path_xs [|i] [|j] //=; rewrite -!topredE /= !ltnS.
+- by move=> _ js _; apply/all_nthP/js/order_path_min_in.
+- by apply/ihs/path_sorted/path_xs; case/andP: Pxs.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:257]:
```suggestion
  by move=> _ js _; apply/all_nthP/js/order_path_min_in.
by apply/ihs/path_sorted/path_xs; case/andP: Pxs.
```

File: mathcomp/ssreflect/path.v [hunk 12]
```diff
@@ -913,14 +1027,26 @@ Proof. by apply: perm_mem; rewrite perm_sort. Qed.
...
   forall s1 s2, reflect (sort leT s1 = sort leT s2) (perm_eq s1 s2).
 Proof.
-move=> leT_total leT_tr leT_asym s1 s2.
-apply: (iffP idP) => eq12; last by rewrite -perm_sort eq12 perm_sort.
-apply: (sorted_eq leT_tr leT_asym); rewrite ?sort_sorted //.
-by rewrite perm_sort (permPl eq12) -perm_sort.
+by move=> *; apply: perm_sort_inP; [apply: in2W | apply: in3W | apply: in2W].
 Qed.
 
 End EqSortSeq.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:1052]: I'd rather keep `perm_sortP` untouched, and add
```coq
Lemma perm_sort_inP (T : eqType) (leT : rel T) (s1 s2 : seq T) :
  {in s1 &, total leT} -> {in s1 & &, transitive leT} ->
  {in s1 &, antisymmetric leT} ->
  reflect (sort leT s1 = sort leT s2) (perm_eq s1 s2).
Proof.
move=> /in2_sig leT_total /in3_sig leT_tr /in2_sig/(_ _ _ _)/val_inj leT_asym.
apply: (iffP idP) => s1s2; last by rewrite -(perm_sort leT) s1s2 perm_sort.
move: (s1s2); have /all_sigP[s1' ->] := allss s1.
have /all_sigP[{s1s2}s2 ->] : all (mem s1) s2 by rewrite -(perm_all _ s1s2).
by rewrite !sort_map => /(perm_map_inj val_inj) /(perm_sortP leT_total)->.
Qed.
```
after the end of the section.

**Review by CohenCyril — APPROVED** [review]
Great!

**Comment by CohenCyril** [comment]
@chdoc I'm happy with the current state of this PR, if you are too, I will merge.

**Review by chdoc — APPROVED** [review]
LGTM!
